US07943639B2
tert-Butyl-4-(2-{[2,5-bis(trifluoromethyl)benzyl]sulfonyl}thieno[3,2-c]pyridin-4-yl)piperazine-1-carboxylate
Lithium 4-chlorothieno[3,2-c]pyridine-2-sulfinate (0.44 mmol) was treated with 2,5-bis(trifluoromethyl)benzylbromide (0.59 mmol) as described in Method P above and then reacted further with tert-butyl-piperazine-1-carboxylate as described in Method Q. Yield 0.01 g (4% over two steps). Beige solid. 1H NMR (300 MHz, CDCl3) δ 8.16 (d, J=5.8 Hz 1H), 8.00 (s, 1H), 7.74-7.85 (m, 3H), 4.76 (s, 2H), 3.56-3.64 (m, 4H), 3.47-3.56 (m, 4H), 1.49 (s, 9H); MS (ESI+) for C25H25F6N3O4S2 m/z 610 (M+H)+. HPLC 73%, RT 2.36 min (YMC ODS AQ, 33×3 mm, 10-90% acetonitrile in 3 min).

reactant | Lithium 4-chlorothieno[3,2-c]pyridine-2-sulfinate | 0.44 mmol | ClC1=NC=CC2=C1C=C(S2)S(=O)[O-].[Li+]
reactant | 2,5-bis(trifluoromethyl)benzylbromide | 0.59 mmol | FC(C1=C(CBr)C=C(C=C1)C(F)(F)F)(F)F | C9H5BrF6
reactant | tert-butyl-piperazine-1-carboxylate | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | acetonitrile | C(C)#N | C2H3N
product | tert-Butyl-4-(2-{[2,5-bis(trifluoromethyl)benzyl]sulfonyl}thieno[3,2-c]pyridin-4-yl)piperazine-1-carboxylate | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CC2=C1C=C(S2)S(=O)(=O)CC2=C(C=CC(=C2)C(F)(F)F)C(F)(F)F | C25H25F6N3O4S2
